US07585881B2
1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]propan-1-ol
Propionaldehyde cyanohydrin (9.62 g, 113 mmol) was added slowly to hydroxyl amine (100 ml, 1.27 M in EtOH) at 0° C. Stirring was continued at r.t. for 3 h and then the reaction mixture was concentrated to dryness under reduced pressure to give crude (E/Z)-N′,2-dihydroxybutanimidamide (9.1 g, 68%). Crude (E/Z)-N′,2-dihydroxybutanimidamide (8.0 g, 67.7 mmol) was dissolved in pyridine (350 ml) and 3-chlorobenzoyl chloride (8.72 ml, 67.7 mmol) was added slowly at 0° C. After stirring at r.t. for 1 h the mixture was heated at reflux o.n. After cooling to r.t. sat. aq. NaHCO3 was added and the mixture was extracted with DCM. The organic phase was washed with water and brine, dried and concentrated. Column chromatography (hep/EA 4:1) gave 7.15 g (44%) of the title compound. 1H NMR: 1.04 (t, 3 H) 2.00 (m, 2 H) 2.35 (m, 1 H) 4.87 (m, 1 H) 7.47 (t, 1 H) 7.57 (m, 1 H) 8.02 (m, 1 H) 8.14 (m, 1 H)

reactant | Propionaldehyde cyanohydrin | 113 mmol, 9.62 g | CCC(C#N)O | C4H7NO
reactant | hydroxyl amine | 1.27 M, 100 ml | ON | H3NO
reactant | 3-chlorobenzoyl chloride | 67.7 mmol, 8.72 ml | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]propan-1-ol | 7.15 g, 44% | ClC=1C=C(C=CC1)C1=NC(=NO1)C(CC)O | C11H11ClN2O2
